US06610711B2
4-(3-Hydroxyphenyl)-4-n-propylpiperidine
A solution of 4-(3-(1-methylethoxy)phenyl)-4-n-propyl-1-piperidinecarboxylic acid phenyl ester (Preparation 66, 6.7 g, 17.6 mmol) in 1:1 47% aqueous hydrobromic acid:glacial acetic acid (20 ml) was heated under reflux overnight. The solution was allowed to cool to room temperature and water (10 ml) was added. The aqueous layer was extracted with methyl tert-butyl ether (3×20 ml) to remove phenol as by-product. The aqueous layer was basified with 10M aqueous sodium hydroxide solution. At approximately pH 4, a biphasic solution developed as more methyl tert-butyl ether came out of solution. The layers were separated, and the aqueous layer was further diluted with water (10 ml) to solubilise a red oily deposit. The pH was adjusted to 10.3-10.5 with 10M aqueous sodium hydroxide and the precipitate was filtered and dried in vacuo at 50° C. to give the title compound as a pale brown solid (1.87 g, 48%).

reactant | 4-(3-(1-methylethoxy)phenyl)-4-n-propyl-1-piperidinecarboxylic acid phenyl ester | 17.6 mmol, 6.7 g | C1(=CC=CC=C1)OC(=O)N1CCC(CC1)(CCC)C1=CC(=CC=C1)OC(C)C | C24H31NO3
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 4-(3-Hydroxyphenyl)-4-n-propylpiperidine | 1.87 g, 48% | OC=1C=C(C=CC1)C1(CCNCC1)CCC | C14H21NO
